US05612134
C8F17C8H16C8F17 ;
C6F13C8H16C6F13 ; C4F9C8H16C4F9 ; C8F17C10H20C8F17 ; C8F17C14H28C8F17 ; C10F21C2H4C10F21 ; C10F21C2H4C10F21 ; C8F17C8H16CH=CHC2H4C6F13 ; (CF3)2CFC8H16CF(CF3)3 ; (CF3)2CFC2F4C8H16C2F4CF(CF3)3 ; and (CF3)2CF(CF2)7C8H16 (CF2)7CF(CF3)2.

reactant | C6F13C8H16C6F13 | C(F)(F)(C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)F)CCCCCCCCC(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)F | C20H16F26
reactant | C4F9C8H16C4F9 | C(F)(F)(C(F)(F)C(F)(F)C(F)(F)F)CCCCCCCCC(F)(F)C(F)(F)C(F)(F)C(F)(F)F | C16H16F18
reactant | C8F17C10H20C8F17 | C(F)(F)(C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)F)CCCCCCCCCCC(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)F | C26H20F34
reactant | C8F17C14H28C8F17 | C(F)(F)(C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)F)CCCCCCCCCCCCCCC(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)F | C30H28F34
reactant | C10F21C2H4C10F21 | C(F)(F)(C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)F)CCC(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)F | C22H4F42
product | C8F17C8H16C8F17 | C(F)(F)(C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)F)CCCCCCCCC(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)F | C24H16F34
